US04007205
Ethyl 7-methoxy-9-oxoxanthene-2-carboxylate
A mixture of 7-methoxy-9-oxoxanthene-2-carboxylic acid in ethanol (100ml) and concentrated sulfuric acid (10 ml) was refluxed under nitrogen for 24 hours. The reaction mixture was concentrated and cooled. The product, which precipitated, was filtered off and recrystallized from ethanol to give white crystals (2.53g, 84%), mp. 170°-172° C.

reactant | 7-methoxy-9-oxoxanthene-2-carboxylic acid | COC1=CC=C2OC=3C=CC(=CC3C(C2=C1)=O)C(=O)O | C15H10O5
reactant | ethanol | 100ml | C(C)O | C2H6O
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | Ethyl 7-methoxy-9-oxoxanthene-2-carboxylate | 2.53g, 84% | COC1=CC=C2OC=3C=CC(=CC3C(C2=C1)=O)C(=O)OCC | C17H14O5
